US04937244
(a) 4-Nitroso-3,3,5,5-tetramethylmorpholine
15.6 g of sodium nitrite are added to a solution of 27 g of 3,3,5,5-tetramethylmorpholine hydrochloride (prepared in accordance with Synthesis (1984), 122) in 80 ml of water and the mixture is heated at 80° C. for 3 hours. After cooling, the nitroso compound is extracted with diethyl ether. After drying and concentration of the ether phase, 22.2 g of the compound crystallize out. Melting point: 47° C.

reactant | sodium nitrite | 15.6 g | N(=O)[O-].[Na+]
reactant | 3,3,5,5-tetramethylmorpholine hydrochloride | 27 g | Cl.CC1(NC(COC1)(C)C)C
solvent | water | 80 ml | O | H2O
product | 4-Nitroso-3,3,5,5-tetramethylmorpholine | N(=O)N1C(COCC1(C)C)(C)C | C8H16N2O2
